Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
urinary incontinence
 
Major Surgical or Invasive Procedure:
Placement of artificial urinary sphincter (4.0 cm cuff, 61-70 cm 
water pressure regulating balloon, pump).

 
History of Present Illness:
___ s/p open prostatectomy in ___ with urinary incontinence 
 
Past Medical History:
Crohn's disease
left visual field defect
toxoplasmosis
ADD
prostate cancer (urinary incontinence, erectile dysfunction)

Past surgical history includes a cholecystectomy, bowel 
resection in ___, radical prostatectomy as noted above, 2 
umbilical hernia repairs with bowel obstruction and penile 
prosthesis x 2.  

 
Social History:
___
Family History:
non-contributory w/ regard to urinary incontinence
 
Physical Exam:
WdWn male, NAD, AVSS
Interactive, cooperative
Abdomen soft, Nt/Nd
LEFT Hemiscrotum Incision c/d/i w/out evidence hematoma or 
infection
No ecchymosis at penile shaft/scrotum noted and no induration
Lower extremities w/out edema or pitting and no report of calf 
pain
Right hemiscrotum with penile prosthesis pump, left hemiscrotum 
with newly placed AUS pump.

 
Pertinent Results:
NONE during admission
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service for 
placement of artificial urinary sphincter prosthesis. No 
concerning intraoperative events occurred; please 
see dictated operative note for details.  Vancomycin and 
Gentamicin were administered for ___ infection 
prophylaxis and he tolerated the procedure well. He was 
recovered in the PACU before transfer to the general surgical 
floor where his post-operative course was uncomplicated.  Mr. 
___ foley catheter was removed postoperatively day 1 and he 
voided 400cc on first attempt without difficulty. At discharge, 
he was well controlled with oral pain medications and he was 
tolerating a regular diet, ambulating without assistance, and 
voiding without difficulty. Incision at discharge without 
erythema or hematoma.  He will follow-up with Dr. ___ as 
directed and complete a course of antibiotics.  Explicit 
instructions against use of penile or AUS prosthesis for a 
minimum of six weeks was advised.  
 
Medications on Admission:
1. Pyrimethamine 25 mg Other DAILY 
2. SulfADIAzine 1000 mg PO Q6H 
3. Leucovorin Calcium 15 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. PredniSONE 60 mg PO DAILY 

 
Discharge Medications:
1. Pyrimethamine 25 mg Other DAILY 
2. SulfADIAzine 1000 mg PO Q6H 
3. Senna 17.2 mg PO HS 
4. Leucovorin Calcium 15 mg PO DAILY 
5. Acetaminophen 650 mg PO Q8H:PRN pain 
6. Omeprazole 20 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) PO twice a 
day Disp #*60 Capsule Refills:*0
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q4hrs Disp #*30 Tablet 
Refills:*0
9. PredniSONE 60 mg PO DAILY 
10. Cephalexin 500 mg PO Q6H Duration: 10 Days 
RX *cephalexin [Keflex] 500 mg ONE capsule(s) by mouth four 
times a day Disp #*40 Capsule Refills:*0
11. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q8hrs Disp #*30 
Tablet Refills:*0
12. IMPORTANT
NOTE: AUS and Penile prostheses. Right hemi-scrotal pump is for 
penile prosthesis, left hemiscrotal pump is for the AUS. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
POSTOPERATIVE DIAGNOSIS:  Stress urinary incontinence, 
adenocarcinoma of the prostate history.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the instructions provided to you by the 
manufacturer with regard to the prosthesis

-Do NOT activate the sphincter but do manipulate the pump as 
instructed and demonstrated by Dr. ___ the scrotum). 

NOTE: AUS and Penile prostheses. Right hemi-scrotal pump is for 
penile prosthesis, left hemiscrotal pump is for the AUS. 

-You may wish to use a pad or adult diaper for leakage over the 
next several weeks. Avoid constipation, straining for bowel 
movements.

-Remove any remaining dressings/gauze on day two after surgery. 

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-over the next several days you may experience some increased 
swelling. This may be accompanied by discoloration (ecchymosis) 
involving the phallus and the scrotum. This is normal and will 
gradually resolve.

-Please remove the surgical dressing over penis and/or under 
scrotum on post-operative day two: no further wound care is 
needed and you may leave the wound open to air. Wear 
comfortable, loose fitting briefs or boxer-briefs for 
support--they should be cotton and/or breathable

-Do NOT use prosthesis for 6 weeks and until explicitly advised 
by your urologist. Do not have intercourse or use penile 
prosthesis for six weeks or until cleared by Dr. ___.

-Complete a 10-day course of antibiotics as directed 

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision. 

-Do not lift anything heavier than a phone book and no sports, 
vigorous physical activity (including sexual).

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4. 
Replace Tylenol with narcotic pain medication. Max daily Tylenol 
dose is 4gm, note that narcotic pain medication also contains 
Tylenol (acetaminophen) 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops. Colace is a 
stool "softener"- it is NOT a laxative

-Resume all of your home medications, except hold NSAID 
(aspirin, and ibuprofen containing products such as advil & 
motrin) for ONE week or until you see your urologist in 
follow-up OR you are explicitly advised to resume sooner by your 
PCP, ___ or Cardiologist

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___